US07053060B2
To a solution of 2-hydroxy-4,6-dimethylbenzaldehyde (0.75 g) and N,N-diisopropylethylamine (1.4 mL) in dichloromethane (20 mL) was added chloromethyl methyl ether (0.57 mL), and the mixture was stirred at room temperature for 24 hours. Water was added to the reaction mixture, and the mixture was extracted with diethyl ether. The organic layer was washed with brine and dried over anhydrous sodium sulfate, and the solvent was removed under reduced pressure. The residue was purified by column chromatography on silica gel (eluent: hexane/ethyl acetate=20/1) to give 2-(methoxymethyloxy)-4,6-dimethylbenzaldehyde (0.57 g).

reactant | 2-hydroxy-4,6-dimethylbenzaldehyde | 0.75 g | OC1=C(C=O)C(=CC(=C1)C)C | C9H10O2
reactant | N,N-diisopropylethylamine | 1.4 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | chloromethyl methyl ether | 0.57 mL | COCCl | C2H5ClO
reactant | Water | O | H2O
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 2-(methoxymethyloxy)-4,6-dimethylbenzaldehyde | 0.57 g | COCOC1=C(C=O)C(=CC(=C1)C)C | C11H14O3
